US07923450B2
b) Ethyl 2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-6,7-dihydro-5H-cyclopentapyrimidine-7-carboxylate
The title compound was prepared from crude ethyl 3-[1-dimethylamino-methylidene]-2-oxo-cyclopentanecarboxylate (70 mg, 0.3 mmol) and N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate (83 mg, 0.22 mmol) using in analogous manner the procedure described in example 45b). Obtained as a pale-yellow solid (5 mg, 6%). MS ISP (m/e): 394.3 [(M+H)+]. mp 150-153° C.

reactant | ethyl 3-[1-dimethylamino-methylidene]-2-oxo-cyclopentanecarboxylate | 0.3 mmol, 70 mg | CN(C=C1C(C(CC1)C(=O)OCC)=O)C | C11H17NO3
reactant | N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate | 0.22 mmol, 83 mg | [N+](=O)(O)[O-].[N+](=O)(O)[O-].COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=N)N
product | Ethyl 2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-6,7-dihydro-5H-cyclopentapyrimidine-7-carboxylate | COC=1C=C(C=CC1N1C=NC(=C1)C)NC1=NC2=C(C=N1)CCC2C(=O)OCC | C21H23N5O3
